US05439917
3-Methoxy-2-methyl-7-phenacyl pyrrolo[2,3-b]pyridine. Hydrochloride.
A solution of 0,75 g (4,6 mmol) 3-methoxy-2-methylpyrrolo[2,3-b]pyridine and 0,75 g (4,8 mmol) phenacyl chloride in 50 ml acetonitrile was refluxed for 14 h. Working up in the same manner as ex. 17 gave 0,5 g (34%) of the desired product.

reactant | 3-methoxy-2-methylpyrrolo[2,3-b]pyridine | 4,6 mmol, 0,75 g | COC1=C(NC2=NC=CC=C21)C | C9H10N2O
reactant | phenacyl chloride | 4,8 mmol, 0,75 g | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-Methoxy-2-methyl-7-phenacyl pyrrolo[2,3-b]pyridine. Hydrochloride | 0,5 g, 34% | Cl.COC1=C(N=C2N(C=CC=C21)CC(=O)C2=CC=CC=C2)C | InChI=1S/C17H16N2O2.ClH/c1-12-16(21-2)14-9-6-10-19(17(14)18-12)11-15(20)13-7-4-3-5-8-13;/h3-10H,11H2,1-2H3;1H
